US05741926
4-((-2-((2-Fluorophenyl)amino)acetyl)amino)benzyl cyanide
A solution of 4-((bromoacetyl)amino)benzyl cyanide (8.5 g, 33.6 mmol) and 2-fluoroaniline (9.03 g, 81.3 mmol) in anhydrous DMF (60 mL) was heated to 90°-100° C. for 2 days with stirring under N2. The solution was cooled, poured into 500 mL of ice-water, and then extracted with CH2Cl2 (200 mL). The separated organic layer was dried (MgSO4) and filtered, a small amount of silica gel was added to the CH2Cl2 solution, and then the mixture was concentrated. Purification by chromatography, eluting with hexane-ethyl acetate (2:1), afforded 7.0 g (73.5%) of the title compound, mp 111°-113° C.: 1H NMR (DMSO-d6) δ10.09 (s, 1H), 7.61 (d, J=8.4, 2H), 7.27 (d, J=8.8, 2H), 7.05 (ddd, J=9.6, J=8.0, J=1.6, 1H), 6.94 (t, J=7.1, 1H), 6.63-6.58 (m, 2H), 5.76 (bt, J=6.0, 1H): 3.96 (s, 2H), 3.93 (d, J=6.0, 2H); 13C NMR (DMSO-d6) δ168.92, 150.87 (d, J=236), 138.18, 136.37 (d, J=11.0), 128.47, 125.85, 124.72 (d, J=3.0), 119.61, 119.32, 116.24 (d, J=6.8), 114.37 (d, J=17), 112.13, 46.62, 21.79; MS (El, m/z) 283 (M+).

reactant | 4-((bromoacetyl)amino)benzyl cyanide | 33.6 mmol, 8.5 g | BrCC(=O)NC1=CC=C(CC#N)C=C1 | C10H9BrN2O
reactant | 2-fluoroaniline | 81.3 mmol, 9.03 g | FC1=C(N)C=CC=C1 | C6H6FN
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-((-2-((2-Fluorophenyl)amino)acetyl)amino)benzyl cyanide | 7.0 g, 73.5% | FC1=C(C=CC=C1)NCC(=O)NC1=CC=C(CC#N)C=C1 | C16H14FN3O
